US06720320B2
4-(8-hydroxy-2H-chromen-3-ylcarbonyl)morpholine
To a solution (70 ml) of 4-(8-methoxy-2H-chromen-3-ylcarbonyl)morpholine (3.5 g) in methylene chloride was added dropwise boron tribromide (9.5 g) at −78° C. The reaction temperature was set to room temperature and the mixture was stirred for 2 hr. The reaction mixture was poured into water and stirred for 1 hr. The organic layer was separated and washed with water and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give the title compound (3.3 g) as brown crystals.

reactant | 4-(8-methoxy-2H-chromen-3-ylcarbonyl)morpholine | 70 ml, 3.5 g | COC=1C=CC=C2C=C(COC12)C(=O)N1CCOCC1 | C15H17NO4
reactant | boron tribromide | 9.5 g | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-(8-hydroxy-2H-chromen-3-ylcarbonyl)morpholine | 3.3 g | OC=1C=CC=C2C=C(COC12)C(=O)N1CCOCC1 | C14H15NO4
